US04719047
B. 1-Anthracenecarboxylic acid
To a 5 L 3-neck flask fitted with condenser, thermometer, and overhead stirrer was added 9,10-dihydro-9,10-dioxo-1-anthracenecarboxylic acid (90 g, 0.357 mol), Zn dust (Mallinckrodt, 250 g, 3.82 mol), CuSO4.5H2O (Mallinckrodt, 5 g), and 28% NH4OH (Mallinckrodt, 2500 mL). The mixture was heated slowly until a dark-red solution occurred as the temperature reached 85°. After 3.5 h the color of the solution faded to yellow. The reaction was heated an additional 1 h, and then cooled and the excess Zn filtered. The filter cake was washed with more NH4OH (100 mL) and then discarded. The filtrate was carefully acidified to pH 1 with conc. HCl added in portions over 1 h affording a light-green precipitate which was separated by filtration. The solid was washed with H2O (200 mL) and then recrystallized once from methoxyethanol/H2O (with a small amount of HCl) to give 65 g (82%) filtered, and dried at 75° of 1-anthracenecarboxylic acid mp 249°-250°, (C,H), (lit. mp 245°, Chemistry of Carbon Compounds IIIb, edited by E. H. Rodd, 1373 (1956), Elsevier, N.Y.).

reactant | 9,10-dihydro-9,10-dioxo-1-anthracenecarboxylic acid | 0.357 mol, 90 g | O=C1C2=CC=CC=C2C(C=2C=CC=C(C12)C(=O)O)=O | C15H8O4
catalyst | Zn | 3.82 mol, 250 g | [Zn] | Zn
solvent | NH4OH | 2500 mL | [NH4+].[OH-]
product | 1-Anthracenecarboxylic acid | C1(=CC=CC2=CC3=CC=CC=C3C=C12)C(=O)O | C15H10O2
